US06248765B1
(2-Fluoro-4-(3-(1H-imidazol-4-yl)propyloxy)phenyl)ethanone
5 mmol of 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol and 6 mmol of (2-fluoro-4-hydroxyphenyl)ethanone are treated as described in Example 56.

reactant | 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol | 5 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O
reactant | (2-fluoro-4-hydroxyphenyl)ethanone | 6 mmol | FC1=C(C=CC(=C1)O)C(C)=O | C8H7FO2
product | (2-Fluoro-4-(3-(1H-imidazol-4-yl)propyloxy)phenyl)ethanone | FC1=C(C=CC(=C1)OCCCC=1N=CNC1)C(C)=O | C14H15FN2O2
